US09084794B2
a) 2-(4-bromo-2,6-difluorophenyl)acetonitrile
To a mixture of potassium cyanide (0.55 g, 8.4 mmol) in dimethyl sulfoxide (10 mL) at 23° C. was slowly added 5-bromo-2-(bromomethyl)-1,3-difluorobenzene (2 g, 7.0 mmol), and the reaction mixture was stirred for 3 h. The reaction mixture was poured into saturated aqueous sodium chloride (100 mL) and was extracted with ether (3×100 mL). The combined organic layers were washed with saturated aq sodium chloride (3×50 mL), dried over anhydrous sodium sulfate, and concentrated to dryness. Purification of the residue by flash chromatography (0-100% ethyl acetate/hexanes) afforded the title product (0.84 g, 52%). 1H NMR (400 MHz, DMSO-d6) δ ppm 4.04 (s, 2 H) 7.60-7.62 (m, 1 H) 7.62-7.65 (m, 1 H).

reactant | potassium cyanide | 8.4 mmol, 0.55 g | [C-]#N.[K+]
reactant | 5-bromo-2-(bromomethyl)-1,3-difluorobenzene | 7.0 mmol, 2 g | BrC=1C=C(C(=C(C1)F)CBr)F | C7H4Br2F2
reactant | sodium chloride | 100 mL | [Cl-].[Na+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 2-(4-bromo-2,6-difluorophenyl)acetonitrile | 0.84 g, 52% | BrC1=CC(=C(C(=C1)F)CC#N)F | C8H4BrF2N
